US04228170
A suspension of N-acetyl-7-chloro-8-mercapto-1,2,3,4-tetrahydroisoquinoline (1 g., 0.004 m.) in dilute hydrochloric acid was refluxed for three hours under an argon atmosphere. The reaction mixture was evaporated under reduced pressure and the residue was dried by evaporation from methanol-toluene. Recrystallization from methanol-ethyl acetate gave 7-chloro-8-mercapto-1,2,3,4-tetrahydroisoquinoline hydrochloride, m.p. 205°-207° C.

reactant | N-acetyl-7-chloro-8-mercapto-1,2,3,4-tetrahydroisoquinoline | 1 g | C(C)(=O)N1CC2=C(C(=CC=C2CC1)Cl)S | C11H12ClNOS
solvent | hydrochloric acid | Cl | ClH
product | 7-chloro-8-mercapto-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC1=CC=C2CCNCC2=C1S | InChI=1S/C9H10ClNS.ClH/c10-8-2-1-6-3-4-11-5-7(6)9(8)12;/h1-2,11-12H,3-5H2;1H
